US06194406B1
Combine 1-(t-butoxycarbonyl)-4-(1-(2-hydroxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane (1.0 g, 2.77 mmol), triphenylphosphine (0.73 g, 2.78 mmol), and tetrazole (0.24 g, 3.38 mmol) in tetrahydrofuran (25 mL). Add a solution of diethylazodicarboxylate (0.59 g, 3.38 mmol) in tetrahydrofuran (1 mL). After 12 hours, concentrate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 1/1 ethyl acetate/hexane to give 1-(t-butoxycarbonyl)-4-(1-(2-(1H-tetrazol-1-yl)ethyl)-1H-benzimidazol-2-yl)[1,4]diazepane: Rf=0.57 (silica gel, 1/1 hexane/ethyl acetate).

reactant | 1-(t-butoxycarbonyl)-4-(1-(2-hydroxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | 2.77 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCO)C=CC=C2 | C19H28N4O3
reactant | triphenylphosphine | 2.78 mmol, 0.73 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tetrazole | 3.38 mmol, 0.24 g | N1N=NN=C1 | CH2N4
reactant | diethylazodicarboxylate | 3.38 mmol, 0.59 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 1-(t-butoxycarbonyl)-4-(1-(2-(1H-tetrazol-1-yl)ethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCN1N=NN=C1)C=CC=C2 | C20H28N8O2
